US06110913
A mixture of 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine (1.5 g, 0.0055 mol, prepared similarly as described in example 1) and potassium iodide (5.4 g, 0.0327 mol) in methyl ethyl ketone (100 ml) was heated at reflux temperature for 2.5 h. Potassium carbonate (1.5 g, 0.0109 mol) and 4-piperidineacetic acid ethyl ester (1.4 g, 0.0082 mmol, described in J. Am. Chem. Soc., Vol. 75, 6249, 1953) were added and the reaction mixture was stirred at 75° C. overnight. After cooling, the reaction mixture was filtered (Hyflo) and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica gel (150 g) using a gradient of heptane and ethyl acetate (1:1→3:7), to give 0.6 g of 1-(3-(10,11-dihydro-5H-dibenz[b,f]-azepin-5-yl)-1-propyl)-4-piperidineacetic acid ethyl ester as an oil.

reactant | 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine | ClCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H18ClN
reactant | potassium iodide | 0.0327 mol, 5.4 g | [I-].[K+]
reactant | Potassium carbonate | 0.0109 mol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-piperidineacetic acid ethyl ester | 0.0082 mmol, 1.4 g | C(C)OC(CC1CCNCC1)=O | C9H17NO2
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 1-(3-(10,11-dihydro-5H-dibenz[b,f]-azepin-5-yl)-1-propyl)-4-piperidineacetic acid ethyl ester | 0.6 g | C(C)OC(CC1CCN(CC1)CCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2)=O | C26H34N2O2
